Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Tylenol / Endocet / shellfish derived / hazzelnut / cherry 
flavor / Indocin / mango / strawberry / oxycodone / soy / 
clonazepam / Penicillins / tramadol / nuts
 
Attending: ___.
 
Chief Complaint:
Cough, shortness of breath 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ female past history of hypertension, anemia, heart
failure reduced ejection fraction now recovered to 51%, CAD, 
left
bundle branch block ___ CRT-P,  direct admitted from home to the
heart failure service for management of acute decompensated 
HFpEF

The patient was seen in the emergency department on ___
after having approximately 1 month of progressively worsening
shortness of breath  Which had became substantially worse than
prior 4 days.  At that encounter the patient had no lower
extremity edema, denied any chest pain, fever/chills.  She was
seen in the emergency room by EP and was found that her
dysfunction was normal with minor program changes.  She was
diuresed with IV Lasix and treated with nebulizers. 
Echocardiogram emergency room showed that her ejection fraction
improved to 51%.  She was able to be discharged shortly
thereafter.

Patient was seen in heart failure clinic on ___ in
follow-up, which point she continued to improve since medically. 

She was given additional Lasix 20 milligrams p.o. as needed to 
be
taken in addition to her standing 40 daily for shortness of
breath.

On ___, patient's daughter called heart failure clinic
reporting a new dry cough with increased bilateral lower
semi-edema.  She was unsure if her mom has been compliant with
her home medications.  Currently clinic on ___ by the heart
failure nurse practitioner team, at that visit she complained of
cough, shortness of breath, leg swelling.  Chest x-ray showed
pulmonary edema without evidence of pneumonia.  She was diuresed
with Lasix 60 mg IV.  Sent home, however her daughter called the
clinic ___ and reported that her mother was not feeling any
better.  At that point she was admitted for IV diuresis.

Regarding her history of heart failure, patient has an EF of 25%
___.  Was felt that her heart failure was due to a
markedly distinctness mechanical activation sequence, resulting
in increased left ventricular filling pressures.  ___ CRT-P
implanted on ___ without complications.  He has
subsequently recovered she was discharged on Lasix 40 mg p.o.
daily, losartan 25 mg

On arrival to the floor, the patient reports that her primary
symptom is coughing and wheezing in the morning. Her daughter is
at bedside and reports that she is concerned about the patients
ability to manage her own medications. No fevers or chills. They
had given the patient lasix 80 mg po daily as well in addition 
to
the 60 IV she received in the CDAC. 

Denies fevers/chills/n/v/cp/shortness of breath/abdominal
pain/dysuria/myalgia/arthralgia. 

 
Past Medical History:
-HTN
-Arthritis
-Gait abnormality/hx of falls

PSH: C-section x1, bilateral TKR ___ years ago, R shoulder
surgery, cataracts
 
Social History:
___
Family History:
Father died of ___, mother died at ___ of unknown causes. 
Brother had tetanus as a child. Grandmother had unknown cancer. 
Brother had ulcer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: ___ 1622 Temp: 98.5 PO BP: 108/55 HR: 83 RR: 18 O2 sat:
100% O2 delivery: RA 
GENERAL: NAD, A&Ox3
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP of 15 cm
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. regular rate and rhythm. Normal S1, S2. ___ RUSB murmur 
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis. trace 
to
1 + pitting edema bilaterally to mid shin, trace pitting edema 
on
the hips. 
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAMINATION:
VS: ___ 0404 Temp: 98.3 PO BP: 117/70 L Lying HR: 76 RR: 18
O2 sat: 93% O2 delivery: RA 
___ Total Intake: 720ml PO Amt: 720ml 
___ Total Output: 750ml Urine Amt: 750ml 
I/O: reviewed
GENERAL: NAD, A&Ox3
HEENT: No icterus or injection. No nasal discharge or sinus
tenderness. MMM.
CV: JVP 8cm, no AJR. RRR, no m/r/g.
RESP: CTAB, wheezing resolved. 
ABDOMEN: Soft, NDNT, no HSM.
EXTREMITIES: Warm, trace pitting edema bilaterally.
SKIN: No lesions or rashes.  
NEURO: Alert, oriented x3, intact attention, poor short term
memory. CN intact. Moves all extremities. No ataxia.

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 05:00PM   GLUCOSE-102* UREA N-43* CREAT-1.4* SODIUM-141 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-26 ANION GAP-14
___ 05:00PM   ALT(SGPT)-9 AST(SGOT)-17 LD(LDH)-417* ALK 
PHOS-90 TOT BILI-0.2
___ 05:00PM   CALCIUM-9.2 PHOSPHATE-3.5 MAGNESIUM-2.1 
IRON-65
___ 05:00PM   calTIBC-329 FERRITIN-65 TRF-253
___ 05:00PM   WBC-9.2 RBC-3.76* HGB-11.2 HCT-34.7 MCV-92 
MCH-29.8 MCHC-32.3 RDW-13.8 RDWSD-46.8*
___ 05:00PM   PLT COUNT-227
___ 05:00PM   ___ PTT-32.5 ___
___ 10:45AM   UREA N-44* CREAT-1.3* SODIUM-141 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-25 ANION GAP-14
___ 10:45AM   estGFR-Using this
___ 10:45AM   proBNP-441
___ 10:45AM   WBC-8.7 RBC-4.06 HGB-12.2 HCT-37.6 MCV-93 
MCH-30.0 MCHC-32.4 RDW-13.8 RDWSD-47.3*
___ 10:45AM   NEUTS-53.8 ___ MONOS-7.8 EOS-7.0 
BASOS-0.5 IM ___ AbsNeut-4.66 AbsLymp-2.66 AbsMono-0.68 
AbsEos-0.61* AbsBaso-0.04
___ 10:45AM   PLT COUNT-244

Pertinent Studies: 
==================
2D-ECHOCARDIOGRAM: ___ IMPRESSION: Mild symmetric left 
ventricular hypertrophy with mild regional systolic dysfunction. 
Moderate mitral regurgitation with normal valve morphology. 
Borderline elevated pulmonary artery systolic pressure.

CXR ___
Final Report 
EXAMINATION:  CHEST (PA AND LAT) 
  
INDICATION:  ___ year old woman with cough and wheezing// ?PNA    
  ?PNA 
  
IMPRESSION:  
  
Comparison to ___.  Lung volumes have slightly decreased. 
 Mild 
cardiomegaly.  No evidence of pneumonia, no pulmonary edema.  No 
pleural 
effusions.  Stable correctly positioned pacemaker leads. 

Discharge Labs: 
===============
___ 07:35AM BLOOD WBC-7.0 RBC-3.78* Hgb-11.2 Hct-34.8 
MCV-92 MCH-29.6 MCHC-32.2 RDW-13.9 RDWSD-47.6* Plt ___
___ 07:35AM BLOOD Plt ___
___ 07:35AM BLOOD Glucose-94 UreaN-35* Creat-1.3* Na-142 
K-4.3 Cl-100 HCO3-25 AnGap-17
___ 07:35AM BLOOD Calcium-9.7 Phos-4.4 Mg-1.___ yo F with a history of heart failure with reduced ejection 
fraction (now recovered), admitted for edema, coughing, and 
increased dyspnea

Transitional Issues: 
====================
[]Discharge BUN/Creatinine: 35/1.3
[]Discharge Weight: 63.4 kg 
[]Discharge Diuretic: Torsemide 60 mg 

New Medications: Torsemide, fluticasone, albuterol 
Stopped Medications: Furosemide 
Changed Medications: None 

Code Status: Full (presumed) 
Contact: ___ (daughter) ___

Transitional Issues: 
====================
For PCP: 
[]Consider pulmonology referral for PFTs 
[]Consider adding ___ to regimen 
[]Ensure patients daughter has appropriate support at home

For Cardiology: 
[]Titrate Torsemide as needed 
[]Chem10 in one week 

Active Issues: 
==============
#Acute on chronic Heart Failure with recovered Ejection fraction 

Patient was seen in the CDAC on the day prior to admission and 
received IV diuresis with Lasix and was sent home on increased 
dosages of p.o. Lasix.  She continued to develop lower extremity 
edema and increasing dyspnea on exertion.  She was admitted for 
continued IV diuresis.  She was able to transition to a new 
outpatient regimen of torsemide 60 mg p.o. daily and was 
continued on her home losartan, amlodipine, and metoprolol.

#Reactive airway disease
#Wheezing
Patient was found to be wheezing on examination and complaining 
of significant cough.  Initially felt to be due to cardiac 
wheezing, however the patient was given fluticasone, duo nebs, 
and as needed albuterol and and her lung sounds improved 
dramatically.  She symptomatically improved.  She will be 
discharged on fluticasone and albuterol inhaler, she should be 
formally evaluated in the outpatient setting with PFTs for 
underlying lung disease.

#Chronic kidney disease
#Acute kidney injury
The patient's baseline creatinine is 0.9, she was admitted with 
a creatinine of 1.4. This improved with diuretics. The most 
likely cause was the patient's heart failure. Her discharge 
creatinine was 1.3

___ disease
The patient will be moving in with her daughter who will be 
managing her medications. The patient was frequently missing 
medications at home and will be important that her daughter 
helps her to manage her chronic disease.

Chronic issues:
#Hypertension
Patient was continued on home losartan, amlodipine, and 
metoprolol

#GERD
Patient was given Tums for heartburn 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Furosemide 40 mg PO DAILY 
3. Losartan Potassium 75 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. EPINEPHrine (EpiPEN) 0.3 mg IM DAILY:PRN anaphylaxis 
6. amLODIPine 10 mg PO DAILY 
7. Cetirizine 10 mg PO DAILY 
8. fluticasone propionate 50 mcg/actuation nasal DAILY 
9. Meclizine 25 mg PO Q12H:PRN vertigo 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing, shortness of 
breath 
RX *albuterol sulfate 90 mcg 1 puff inhaled q4hrs PRN Disp #*1 
Inhaler Refills:*3 
2.  Fluticasone Propionate 110mcg 2 PUFF IH BID 
RX *fluticasone propionate [Flovent HFA] 110 mcg/actuation 2 
puffs IH twice a day Disp #*1 Inhaler Refills:*3 
3.  Torsemide 60 mg PO DAILY 
RX *torsemide 20 mg 3 tablet(s) by mouth once a day Disp #*270 
Tablet Refills:*3 
4.  amLODIPine 10 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Cetirizine 10 mg PO DAILY  
7.  EPINEPHrine (EpiPEN) 0.3 mg IM DAILY:PRN anaphylaxis  
8.  fluticasone propionate 50 mcg/actuation nasal DAILY  
9.  Losartan Potassium 75 mg PO DAILY  
10.  Meclizine 25 mg PO Q12H:PRN vertigo  
11.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: 
================== 
Acute HFpEF Exacerbation  
 
Secondary Diagnosis: 
==================== 
1) Reactive Airway Disease  
2) Chronic Kidney Disease  
3) ___ Disease  
4) Hypertension  
5) GERD  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
==========================
DISCHARGE INSTRUCTIONS
==========================
Dear ___

___ were admitted to the hospital because ___ are coughing a 
lot. Please see below for more information on your 
hospitalization. It was a pleasure participating in your care!  
 
We wish ___ the best!
-Your ___ Healthcare Team  

What happened while ___ were in the hospital?  
-We gave ___ medications to help ___ pee out extra fluid.
–We gave ___ medications to help improve your breathing.

What should ___ do after leaving the hospital?  
-Please take your medications as listed below and follow up at 
the listed appointments. 
-Your weight at discharge is 139.7 lbs. Please weigh yourself 
today at home and use this as your new baseline. 
-Please do not take NSAIDs (Advil, Motrin, Aleve) as these can 
cause heart failure
-Please weigh yourself every day in the morning. Call your 
doctor if your weight goes up or down by more than 3 lbs in a 
day or more than 5lbs in a week 

 
Followup Instructions:
___